US08022223B2
N-(4-methylthiazol-2-yl)-3-phenoxy-5-phenylpyridin-2-amine hydrochloride
5-Chloro-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine (0.150 g, 0.472 mmol), phenylboronic acid (0.0691 g, 0.566 mmol), Pd(PPh3)4 (0.0545 g, 0.0472 mmol), in DME (10 mL), and 2M Na2CO3 (5 mL) were placed in a round bottom flask, heated to 80° C. and stirred overnight. An extra equivalent of Pd(PPh3)4 (0.0545 g, 0.0472 mmol), and phenylboronic acid (0.0691 g, 0.566 mmol) were added and the reaction mixture was heated for 2 weeks. The reaction mixture was cooled to room temperature and partitioned between CH2Cl2 and water. The organic layer was dried, filtered, and concentrated. The residue was purified by silica gel chromatography and then by reverse phase chromatography to give the title compound (0.0134 g, 7.17% yield) after salt formation. 1H NMR (d6-DMSO) δ 8.53 (d, 1H), 7.65 (m, 3H), 7.45 (m, 4H), 7.37 (m, 1H), 7.21 (t, 1H), 7.16 (d, 2H), 6.78 (s, 1H), 2.29 (s, 3H); Mass spectrum (apci) m/z=360.3 (M+H—HCl).

reactant | 5-Chloro-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine | 0.472 mmol, 0.150 g | ClC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | C15H12ClN3OS
reactant | phenylboronic acid | 0.566 mmol, 0.0691 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenylboronic acid | 0.566 mmol, 0.0691 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0472 mmol, 0.0545 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.0472 mmol, 0.0545 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-methylthiazol-2-yl)-3-phenoxy-5-phenylpyridin-2-amine hydrochloride | 0.0134 g, 7.17% yield | Cl.CC=1N=C(SC1)NC1=NC=C(C=C1OC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H17N3OS.ClH/c1-15-14-26-21(23-15)24-20-19(25-18-10-6-3-7-11-18)12-17(13-22-20)16-8-4-2-5-9-16;/h2-14H,1H3,(H,22,23,24);1H
